US04711898
Ethyl o-chlorobenzoylacetate
Sodium hydride (8.7 grams) and 21.4 grams of diethyl carbonate are suspended in 100 ml of tetrahydrofuran, 14 grams of o-chloroacetophenone is gradually dropped thereinto by keeping the inner temperature at 40° to 50° C., then a small amount of ethanol is added thereto and heated to reflux for four hours. After cooling, 20 ml of ethanol is added thereto, the mixture is poured into ice water, and extracted with ether. Ether extracts are combined, washed with water, dried with anhydrous magnesium sulfate, and ether is evaporated therefrom. The resulting oil is purified by distillation in vacuo to give 8.8 grams of colorless, oily product, b.p. 120° to 125° C./1 mmg Hg.

reactant | Sodium hydride | 8.7 grams | [H-].[Na+]
reactant | diethyl carbonate | 21.4 grams | C(OCC)(OCC)=O | C5H10O3
reactant | o-chloroacetophenone | 14 grams | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl o-chlorobenzoylacetate | ClC1=C(C(=O)CC(=O)OCC)C=CC=C1 | C11H11ClO3
